US05688808
A solution of aniline (19 mL, 0.20 mol), 3-acetoxy-3-methyl-1-butyne (26 g, 0.20 mol), CuCl (1.0 g, 10 mmol) and Et3N (28 mL, 0.20 mol) in THF (120 mL) was heated at reflux for 5 h and was filtered through a pad of Celite™. Removal of solvent and chromatography of the crude mixture (silica gel, EtOAc/hexane, 3/7) afforded 21 g (67%) of 3-methyl-3-phenylamino-1-butyne. Treatment of the aminobutyne with CuCl (0.70 mg, 7.0 mmol) in THF (200 mL ) at 70° C. for 16 h followed by chromatography (silica gel, EtOAc/hexane, 3/7) afforded 13 g (60%) of 1,2-dihydro-2,2-dimethylquinoline (structure 75A of Scheme LII, where R1 =H, R2-3 =methyl). Treatment of the quinoline with di-tert-butyl dicarbonate (22 g, 0.10 mol) and DMAP (12 g, 0.10 mol) in THF (100 mL ) for 16 h followed by chromatography (silica gel, EtOAc/hexane, 2/8) afforded 15 g (71%) of 1-tert-butoxycarbonyl-1,2-dihydro-2,2-dimethylquinoline. 1-tert-Butoxycarbonyl-1,2-dihydro-2,2-dimethylquinoline (3.0 g, 11 mmol) in THF (30 mL ) was treated with 1.0M BH3 -THF in THF (29 mL, 29 mmol) at rt for 3 h and was quenched with 3M KOH (20 mL). To the above solution 30% H2O2 (5 mL) was added and the mixture was stirred for 60 min, then 5 mL of water was introduced. The mixture was extracted, washed with brine and concentrated. Chromatography of the crude mixture on a silica gel column using a 10-30% mixture of EtOAc/Hexane as eluents afforded a 2:1 mixture of two isomers (0.87 g, 3.1 mmol), which was oxidized with PCC (2.5 g, 11 mmol) in 60 mL of methylene chloride at rt for 60 min. Removal of solvent and chromatography of the black oil on a silica gel column using a 20% mixture of EtOAc and hexane as solvent afforded 0.58 g (68%) of 1-tert-butoxycarbonyl-1,2,3,4-tetrahydro-2,2-dimethyl-4-quinolinone as a white solid. Data for 1-tert-butoxycarbonyl-1,2,3,4-tetrahydro-2,2-dimethyl-4-quinolinone: 1H NMR (400 MHz, CDCl3) 7.93 (d, J=7.8, 1H), 7.42 (t, J=7.8, 1H), 7.31 (d, J=7.8, 1H), 7.02 (t, J=7.8, 1H), 2.73 (s, 2H), 1.56 (s, 9H), 1.49 (s, 6H).

reactant | quinoline | N1=CC=CC2=CC=CC=C12 | C9H7N
reactant | di-tert-butyl dicarbonate | 0.10 mol, 22 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | EtOAc hexane | CCOC(=O)C.CCCCCC
catalyst | DMAP | 0.10 mol, 12 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 1-tert-butoxycarbonyl-1,2-dihydro-2,2-dimethylquinoline | 15 g, 71% | C(C)(C)(C)OC(=O)N1C(C=CC2=CC=CC=C12)(C)C | C16H21NO2
